* V1 optional vibration motor low-side NMOS estimate
* Motor is a lumped R-L load. Verify inrush, winding values, MOSFET and diode.
VBAT vbat 0 4.2
VGATE gate 0 PULSE(0 3.3 1m 1u 1u 8m 15m)
RG gate g 47
RPD g 0 100k
M1 drain g 0 0 NMOS
RMOTOR vbat motor 12
LMOTOR motor drain 1m
DFLY drain vbat DFLY
.model NMOS NMOS(Level=1 Vto=1.2 Kp=4 Rs=0.05 Rd=0.05)
.model DFLY D(Is=1n Rs=0.2 N=1.2)
.tran 5u 20m
.measure tran IMOTOR_MAX MAX par('-i(VBAT)')
.end
